US03932168
N-Cyanomethyl 2,4-Dichlorophenoxyacetamide
A solution of 11.95 g. (0.05 mole) of 2,4 dichlorophenoxyacetyl chloride in 50 ml. of benzene was added slowly to a stirred mixture of 10.1 g. (0.10 mole) of triethylamine and 4.2 g. (0.05 mole) aminoacetonitrile hydrochloride in 200 ml. of benzene. The mixture was stirred for 2 hours at room temperature and then washed successively with water, 5% sodium hydroxide solution, water, 5% hydrochloric acid solution, and water and then dried over magnesium sulfate. The resultant filtrate was concentrated under vacuum to give a solid which was crystallized from dilute ethanol to give 8.6 g. (66% yield) of product having a melting point of 107°-108° C.

reactant | 2,4 dichlorophenoxyacetyl chloride | 0.05 mole | ClC1=C(OCC(=O)Cl)C=CC(=C1)Cl | C8H5Cl3O2
reactant | triethylamine | 0.10 mole | C(C)N(CC)CC | C6H15N
reactant | aminoacetonitrile hydrochloride | 0.05 mole | Cl.NCC#N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-Cyanomethyl 2,4-Dichlorophenoxyacetamide | 66% yield | C(#N)CNC(COC1=C(C=C(C=C1)Cl)Cl)=O | C10H8Cl2N2O2
